### PR TITLE
Fix reduction to MonoR

### PR DESCRIPTION
**Pull request by fasapa**

### CODE REVIEW

File: CMvPolynomial/Lawful.lean [hunk 1]
```diff
@@ -75,7 +75,7 @@ lemma zero_eq_zero : (0 : Lawful n R) = ⟨0, by grind⟩ := rfl
 lemma zero_eq_empty : (0 : Lawful n R) = ∅ := by unfold_projs; simp [C, Unlawful.zero_eq_empty]
 
 -- Not sure why `zero_eq_empty` dislikes `grind` annotation of the form `(∅ : Unlawful n R)`.
-grind_pattern zero_eq_empty => (∅ : Unlawful n R), (0 : Lawful n R) 
+grind_pattern zero_eq_empty => (∅ : Unlawful n R), (0 : Lawful n R)
```
Comment (fasapa) [inline CMvPolynomial/Lawful.lean]: It seems my editor removed the extra white space here

File: CMvPolynomial/Lawful.lean [hunk 2]
```diff
@@ -88,8 +88,8 @@ lemma cast_fromUnlawful : (fromUnlawful p.1).1 = p.1 := by
   unfold fromUnlawful
   rcases p with ⟨p, hp⟩
   simp; ext1 x
-  rw [ExtTreeMap.getElem?_filter, Option.filter_irrel (by aesop)]  
-    
+  rw [ExtTreeMap.getElem?_filter, Option.filter_irrel (by aesop)]
+
```
Comment (fasapa) [inline CMvPolynomial/Lawful.lean]: ... and here
